US09340538B2
Step A: Ethyl 6-methyl-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of 2-(trifluoromethyl)benzaldehyde (8.7 g, 50 mmol), thiazole-2-carboximidamide hydrochloride (8.2 g, 50 mmol), ethyl 3-oxobutanoate (7.8 g, 60 mmol) and sodium acetate (5.33 g, 65 mmol) in ethanol (90 mL) was refluxed at 80° C. for 12 hours under N2. The resulting mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=3/1) to give the title compound as a yellow solid (12.62 g, 64%). The compound was characterized by the following spectroscopic data:

reactant | 2-(trifluoromethyl)benzaldehyde | 50 mmol, 8.7 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | thiazole-2-carboximidamide hydrochloride | 50 mmol, 8.2 g | Cl.S1C(=NC=C1)C(N)=N
reactant | ethyl 3-oxobutanoate | 60 mmol, 7.8 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | sodium acetate | 65 mmol, 5.33 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | Ethyl 6-methyl-2-(thiazol-2-yl)-4-(2-(trifluoromethyl)phenyl)-1,4-dihydropyrimidine-5-carboxylate | 12.62 g, 64% | CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C18H16F3N3O2S
